US04405640
Pentafluorobenzyl alcohol (1.98 g) was added to a stirred solution of sodium methoxide (obtained by dissolving sodium (0.4 g) in methyl alcohol (10 ml) at the ambient temperature, and the mixture heated at the reflux temperature for 3.5 hours. After cooling the mixture, the solvent was removed by evaporation under reduced pressure and the residue partitioned between water and diethyl ether. After separating the ethereal layer and washing with water, it was dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent under reduced pressure to yield 4-methoxy-2,3,5,6-tetrafluorobenzyl alcohol (1.8 g), identical with the product of Example 5.

reactant | Pentafluorobenzyl alcohol | 1.98 g | FC1=C(C(=C(C(=C1CO)F)F)F)F | C7H3F5O
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.4 g | [Na] | Na
solvent | methyl alcohol | 10 ml | CO | CH4O
product | 4-methoxy-2,3,5,6-tetrafluorobenzyl alcohol | 1.8 g | COC1=C(C(=C(CO)C(=C1F)F)F)F | C8H6F4O2
